### PR TITLE
180 eq hardening int negation and zero equals reductions

### LINKED ISSUE #180: Eq hardening: Int-negation and zero-equals reductions
**Goal:** Emit proof steps for the negation and zero-equals reductions in `optimizeEq` (`OptimizeEq.lean`).

**Scope:**
```
0 = -e       ==> 0 = e       (Int)
-e1 = -e2    ==> e1 = e2      (Int)
0 = x * y    ==> False        (if x ≠ 0 ∧ y ≠ 0 in hyps)
0 = x + y    ==> False        (Nat: nonZero x ∨ y in hyps; Int: same-sign x, y in hyps)
```

**Out of scope:** additive/multiplicative cancellation; the Bool/Prop-negation rules.

**DoD:**
- [ ] Each in-scope case pushes its proof step.
- [ ] A variable-operand `#testOptimize [ ..., proof ]` test exercises each case (with the needed hypotheses in context), wired into `Tests/Optimize.lean`.

### PR DESCRIPTION
**Pull request by MarcoNardell1**
## Description

Emit proof steps for Nat/Int zero equality reductions

## Type of Change

- [ ] Bug fix (non-breaking change fixing an issue)
- [x] New feature (non-breaking change adding functionality)
- [ ] Breaking change (fix or feature causing existing functionality to change)
- [ ] Documentation update
- [ ] Performance improvement
- [ ] Code refactoring
- [ ] Test updates

## Related Issue

Use any of the following for our ticket management to know which tickets to move to `Done` when PR is merged:

- Fixes #180 
- Closes #180 

## Changes Made

- 
- 
- 

### Test Coverage

- [x] Added new tests for new functionality
- [x] Updated existing tests
- [x] All tests pass locally
- [ ] For bug fixes: Added example to `Tests/Issues/` folder

## Documentation

- [ ] README updated (if applicable)
- [x] Code comments added/updated
- [ ] Doc comments added for new optimization/rewritting rules

- [x] My code follows the project's style guidelines
- [x] I have performed a self-review of my code
- [x] I have commented my code, particularly in hard-to-understand areas
- [ ] I have made corresponding changes to the documentation
- [x] I have added tests that prove my fix is effective or that my feature works
- [ ] New and existing unit tests pass locally with my changes using `make check_all`
- [ ] For bug fixes: Original failing example added to `Tests/Issues/` folder with reference to issue number

### CODE REVIEW

File: Blaster/Optimize/Rewriting/OptimizeEq.lean [hunk 1]
```diff
@@ -260,6 +316,35 @@ def addNatEqReduce? (op1 : Expr) (op2 : Expr) : TranslateEnvT (Option Expr) := d
    let op2' := mkApp2 (← mkNatAddOp) (← mkNatLitExpr rightValue) e2
    mkNatEqExpr op1' op2'
 
+/-- Proof-returning companion to `gtZeroIntInHyps` for a non literal `e` :
+  when a hypothesis entailing `0 < e` is in the context, otherwise `none`
+-/
+def gtZeroIntInHypsProof (e : Expr) : TranslateEnvT (Option Expr) := do
+  match isIntValue? e with
+  | .some (.ofNat 0) => return none
+  | .some (.ofNat _) => return some e
```
Comment (felipeperet) [inline Blaster/Optimize/Rewriting/OptimizeEq.lean]: Returns the literal `e` instead of a proof of `0 < e`. Return none for literals, like `findNeZeroIntProof?`.

File: Blaster/Optimize/Rewriting/OptimizeEq.lean [hunk 2]
```diff
@@ -260,6 +316,35 @@ def addNatEqReduce? (op1 : Expr) (op2 : Expr) : TranslateEnvT (Option Expr) := d
...
+
+
+/-- Proof-returning companion to `ltZeroIntInHyps` for a non literal `e` :
+  when a hypothesis entailing `e < 0` is in the context, otherwise `none`
+-/
+def ltZeroIntInHypsProof (e : Expr) : TranslateEnvT (Option Expr) := do
+  match isIntValue? e with
+  | .some (.ofNat 0) => return none
+  | .some (.ofNat _) => return none
+  | .some _          => return some e
```
Comment (felipeperet) [inline Blaster/Optimize/Rewriting/OptimizeEq.lean]: Same as line 325.

File: Tests/Optimize/OptimizeEq/OptimizeEq.lean
Comment (felipeperet) [inline Tests/Optimize/OptimizeEq/OptimizeEq.lean:1]: No proof test for `0 = -e ==> 0 = e` nor `-e1 = -e2 ==> e1 = e2`.

File: Blaster/Optimize/Lemmas/LemmasInt.lean [hunk 3]
```diff
@@ -236,6 +236,44 @@ protected theorem int_add_lt_zero_eq_true_of_neg_nonpos (x y : Int) (hx : x < 0)
...
+protected theorem zero_eq_int (e : Int) : (0 = -e) = (0 = e) := by
+  apply propext
+  rw [← Int.neg_zero, Int.neg_inj]
+  exact Eq.to_iff rfl
+
+protected theorem int_neg_eq (a b : Int) : (-a = -b) = (a = b) := by
+  apply propext
+  exact Int.neg_inj
+
+protected theorem int_zero_gt_imp_zero_neq (e: Int) (h : 0 < e): e ≠ 0 := by
```
Comment (felipeperet) [inline Blaster/Optimize/Lemmas/LemmasInt.lean]: `int_zero_gt_imp_zero_neq` and `int_zero_lt_imp_zero_neq` are both unused. You can remove them.

**Review by felipeperet — CHANGES_REQUESTED** [review]

File: Blaster/Optimize/Rewriting/OptimizeEq.lean (hunk 1 above)
Comment (MarcoNardell1) [reply Blaster/Optimize/Rewriting/OptimizeEq.lean]: a52e49df9c086f79bb081fb20b3a14f4f0c5446d

File: Blaster/Optimize/Rewriting/OptimizeEq.lean (hunk 2 above)
Comment (MarcoNardell1) [reply Blaster/Optimize/Rewriting/OptimizeEq.lean]: a52e49df9c086f79bb081fb20b3a14f4f0c5446d

File: Tests/Optimize/OptimizeEq/OptimizeEq.lean
Comment (MarcoNardell1) [reply Tests/Optimize/OptimizeEq/OptimizeEq.lean:1]: a52e49df9c086f79bb081fb20b3a14f4f0c5446d

File: Blaster/Optimize/Lemmas/LemmasInt.lean (hunk 3 above)
Comment (MarcoNardell1) [reply Blaster/Optimize/Lemmas/LemmasInt.lean]: a52e49df9c086f79bb081fb20b3a14f4f0c5446d

File: Blaster/Optimize/Rewriting/OptimizeEq.lean [hunk 4]
```diff
@@ -4,6 +4,53 @@ import Blaster.Optimize.Hypotheses
...
+  | some (Int.ofNat 0) => true
+  | _ => false
+
+/-- Find an FVar proof of `e ≠ 0` in the optimizer's local context, wrapping the
+    hypothesis found (`0 < e`, `e < 0`, or `¬ (0 = e)`) with the matching bridge
+    lemma. Assumes `nonZeroIntInHyps e` has returned `true`. -/
+def findNeZeroIntProof? (e : Expr) : TranslateEnvT (Option Expr) := do
+  match isIntValue? e with
+  | .some (Int.ofNat 0) => return none
+  | .some _ => return none
```
Comment (felipeperet) [inline Blaster/Optimize/Rewriting/OptimizeEq.lean:21]: My earlier "return `none` for literals" was wrong, sorry. For a non-zero literal return a `decide` proof of `N ≠ 0`, and `none` only for `0`. Same in `findNeZeroNatProof?` (l. 42). In `gtZeroIntInHypsProof` (l. 326) / `ltZeroIntInHypsProof` (l. 341) the proof is of `0 < N` / `N < 0`, so only for positive / negative literals. Please add literal tests as well.

File: Blaster/Optimize/Rewriting/OptimizeEq.lean [hunk 5]
```diff
@@ -4,6 +4,53 @@ import Blaster.Optimize.Hypotheses
...
+@[always_inline, inline]
+def isZeroInt (e : Expr) : Bool :=
+  match isIntValue? e with
+  | some (Int.ofNat 0) => true
+  | _ => false
+
+/-- Find an FVar proof of `e ≠ 0` in the optimizer's local context, wrapping the
+    hypothesis found (`0 < e`, `e < 0`, or `¬ (0 = e)`) with the matching bridge
+    lemma. Assumes `nonZeroIntInHyps e` has returned `true`. -/
+def findNeZeroIntProof? (e : Expr) : TranslateEnvT (Option Expr) := do
```
Comment (felipeperet) [inline Blaster/Optimize/Rewriting/OptimizeEq.lean:18]: This also changes the div/mod callers in `OptimizeInt.lean`: `(0 < x ∧ 0 < y) → x / x = 1` now reconstructs. Please add it as a proof test in `OptimizeIntEDiv.lean`.

**Review by felipeperet — CHANGES_REQUESTED** [review]

File: Blaster/Optimize/Rewriting/OptimizeEq.lean [hunk 6]
```diff
@@ -4,6 +4,53 @@ import Blaster.Optimize.Hypotheses
 open Lean Meta
 namespace Blaster.Optimize
 
+
+/-- Return `true` when `e` corresponds to the zero int literal. -/
+@[always_inline, inline]
+def isZeroInt (e : Expr) : Bool :=
```
Comment (felipeperet) [inline Blaster/Optimize/Rewriting/OptimizeEq.lean:10]: `isZeroInt` is unused now. Please remove it.

**Review by felipeperet — CHANGES_REQUESTED** [review]

File: Blaster/Optimize/Rewriting/OptimizeEq.lean (hunk 4 above)
Comment (MarcoNardell1) [reply Blaster/Optimize/Rewriting/OptimizeEq.lean]: 1b5a7981a380ab4326c0b9fb18c1d7e54556bf7c

File: Blaster/Optimize/Rewriting/OptimizeEq.lean (hunk 5 above)
Comment (MarcoNardell1) [reply Blaster/Optimize/Rewriting/OptimizeEq.lean]: 1b5a7981a380ab4326c0b9fb18c1d7e54556bf7c

File: Blaster/Optimize/Rewriting/OptimizeEq.lean (hunk 6 above)
Comment (MarcoNardell1) [reply Blaster/Optimize/Rewriting/OptimizeEq.lean]: 1b5a7981a380ab4326c0b9fb18c1d7e54556bf7c
